US09340546B2
A mixture of 4-bromo-3-chloro-5-nitro-pyridine (700 mg, 2.948 mmol), tert-butyl piperazine-1-carboxylate (823.6 mg, 4.422 mmol) and DIPEA (762.0 mg, 1.027 mL, 5.896 mmol) in NMP (2.5 mL) was stirred overnight at RT. The reaction mixture was partitioned between EtOAc and water. Combined organic extract was washed with brine, dried over MgSO4, concentrated under reduced pressure to yield tert-butyl 4-(3-chloro-5-nitropyridin-4-yl)piperazine-1-carboxylate which was used in next step without further purification (1 g, 99%). MS (ES+) 343.1.

reactant | 4-bromo-3-chloro-5-nitro-pyridine | 2.948 mmol, 700 mg | BrC1=C(C=NC=C1[N+](=O)[O-])Cl | C5H2BrClN2O2
reactant | tert-butyl piperazine-1-carboxylate | 4.422 mmol, 823.6 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | DIPEA | 5.896 mmol, 1.027 mL, 762.0 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 2.5 mL | CN1CCCC1=O | C5H9NO
product | tert-butyl 4-(3-chloro-5-nitropyridin-4-yl)piperazine-1-carboxylate | ClC=1C=NC=C(C1N1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C14H19ClN4O4
